### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial/FieldDivision): factoring polynomials to irreducible monic factors

### PR DESCRIPTION
**Pull request by Command-Master**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/FieldDivision.lean [hunk 1]
```diff
@@ -658,6 +659,28 @@ theorem irreducible_iff_lt_natDegree_lt {p : R[X]} (hp0 : p ≠ 0) (hpu : ¬ IsU
   simp only [IsUnit.dvd_mul_right
     (isUnit_C.mpr (IsUnit.mk0 (leadingCoeff p)⁻¹ (inv_ne_zero (leadingCoeff_ne_zero.mpr hp0))))]
 
+open UniqueFactorizationMonoid in
+/--
+Every polynomial over a field factors to some constant times the product of some
+irreducible monic polynomials.
+-/
+theorem exists_multiset_irreducible_and_monic_and_mul_prod_eq (a : R[X]) :
```
Comment (Command-Master) [inline Mathlib/Algebra/Polynomial/FieldDivision.lean:667]: This name might be overly descriptive - something like `exists_irreducible_monic_factorization` might be clearer

File: Mathlib/Algebra/Polynomial/FieldDivision.lean [hunk 2]
```diff
@@ -658,6 +659,28 @@ theorem irreducible_iff_lt_natDegree_lt {p : R[X]} (hp0 : p ≠ 0) (hpu : ¬ IsU
...
+    ∃ (f : Multiset R[X]) (v : R), (∀ b ∈ f, Irreducible b ∧ b.Monic) ∧ C v * f.prod = a := by
+  classical
+  by_cases ha : a = 0
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Polynomial/FieldDivision.lean:670]: `normalizedFactors 0` is also empty, right? Maybe you can just use that instead of the unspecified f?

File: Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean [hunk 3]
```diff
@@ -39,8 +39,8 @@ theorem factors_eq_normalizedFactors {M : Type*} [CancelCommMonoidWithZero M]
   ext p
   exact normalize_eq p
 
-theorem normalizedFactors_prod {a : α} (ane0 : a ≠ 0) :
-    Associated (normalizedFactors a).prod a := by
+theorem prod_normalizedFactors {a : α} (ane0 : a ≠ 0) : Associated (normalizedFactors a).prod a :=
+  by
```
Comment (j-loreaux) [inline Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean:43]:
```suggestion
theorem prod_normalizedFactors {a : α} (ane0 : a ≠ 0) :
    Associated (normalizedFactors a).prod a := by
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+

**Comment by Command-Master** [comment]
bors merge
